### PR TITLE
feat(Probability/Distributions/Exponential): add MGF, moments, and memoryless property

### PR DESCRIPTION
**Pull request by JoaBjo**
Add the main analytic results for the exponential distribution:

- moment-generating function `mgf id (expMeasure r) t = r / (r - t)` for `t < r`
- mean `∫ x, x ∂(expMeasure r) = r⁻¹`
- variance `Var[id; expMeasure r] = r⁻¹ ^ 2`
- `ℒp` membership for all `p`
- tail probability `P(X > x) = exp (-(r * x))`
- memoryless property `P(X > s + t | X > s) = P(X > t)`

The MGF is computed by reducing to the known improper integral `∫ exp(c * x)` on `Ioi`, and integrability is deduced by contradiction from the positive closed-form value. The mean and variance are computed via the Gamma function integral `∫₀^∞ x^(n-1) exp(-r x) dx = Γ(n) / rⁿ`. The memoryless property follows from the exponential identity `exp(-(r(s+t))) = exp(-rt) * exp(-rs)`.

🤖 Claude Code (Fable) was used in this PR to resolve a merge with master. It adapted the branch's code to upstream renames/deprecations. It also restructured a proof that broke in the merge.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 1]
```diff
@@ -190,4 +200,194 @@ lemma cdf_expMeasure_eq {r : ℝ} (hr : 0 < r) (x : ℝ) :
...
+          (f := cdf (expMeasure r))
+          (ProbabilityTheory.tendsto_cdf_atTop (μ := expMeasure r)) x
+    _ = ENNReal.ofReal (exp (-(r * x))) := by
+        rw [cdf_expMeasure_eq hr x, if_pos hx]; ring_nf
+
+/-- The memoryless property of the exponential distribution: `P(X > s + t | X > s) = P(X > t)`. -/
+lemma memoryless_expMeasure (hr : 0 < r) {s t : ℝ} (hs : 0 ≤ s) (ht : 0 ≤ t) :
+    (expMeasure r) {x | x > s + t} * ((expMeasure r) {x | x > s})⁻¹ =
+      (expMeasure r) {x | x > t} := by
+  rw [show {x : ℝ | x > s + t} = Ioi (s + t) by rfl,
```
Comment (Timeroot) [inline Mathlib/Probability/Distributions/Exponential.lean]: These `show ... by rfl` can be exchanged for [Set.Ioi.eq_1], which I think would be cleaner!

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 2]
```diff
@@ -190,4 +200,194 @@ lemma cdf_expMeasure_eq {r : ℝ} (hr : 0 < r) (x : ℝ) :
...
+/-- The second raw moment of the exponential distribution with rate `r > 0` is `2 * r⁻¹ ^ 2`. -/
+private lemma integral_sq_expMeasure (hr : 0 < r) :
+    ∫ x, x ^ 2 ∂(expMeasure r) = 2 * r⁻¹ ^ 2 := by
+  rw [integral_expMeasure_eq_integral_density]
+  have hIci0 :
+      ∫ x, (exponentialPDF r x).toReal * x ^ 2 =
+        ∫ x in Ici 0, (exponentialPDF r x).toReal * x ^ 2 := by
+    symm
+    refine setIntegral_eq_integral_of_forall_compl_eq_zero fun x hx => ?_
+    rw [exponentialPDF_of_neg (by simpa [mem_Ici] using hx), ENNReal.toReal_zero, zero_mul]
```
Comment (Timeroot) [inline Mathlib/Probability/Distributions/Exponential.lean]: Can this be golfed to `simp [exponentialPDF_of_neg, mem_Ici, hx]` or similar?

Comment (JoaBjo) [reply Mathlib/Probability/Distributions/Exponential.lean]: Yes, thank you :)

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 1 above)
Comment (JoaBjo) [reply Mathlib/Probability/Distributions/Exponential.lean]: I might be misunderstanding you, but I don't think that works

**Comment by EtienneC30** [comment]
Hi! Can you please disclose any kind of AI-assistance you may have used as per our [guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai)?

**Comment by JoaBjo** [comment]
> Hi! Can you please disclose any kind of AI-assistance you may have used as per our [guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai)?

Where should I disclose this, here in the PR? Since this PR was part of me learning lean I have written the code manually. Before I submitted the PR I asked an AI agent to review the code to catch any obvious mistakes.

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 1 above)
Comment (JoaBjo) [reply Mathlib/Probability/Distributions/Exponential.lean]: I changed the statement so that it uses Ioi so the conversion step is no longer needed. It matches the `measure_Ioi_expMeasure` above it

**Comment by JoaBjo** [comment]
-awaiting-author
